### PR TITLE
[Merged by Bors] - refactor(RingTheory/IntegralClosure/IsIntegral/Basic): use `FaithfulSMul` in `isIntegral_algebraMap_iff`

### PR DESCRIPTION
**Pull request by tb65536**
Currently `isIntegral_algebraMap_iff` takes an explicit assumption stating that `algebraMap A B` is nonzero, but a `[FaithfulSMul A B]` typeclass is more idiomatic (and can almost always be inferred automatically).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean [hunk 1]
```diff
@@ -353,8 +350,9 @@ variable {R A B : Type*} [CommRing R] [CommRing A] [CommRing B]
 variable [Algebra R B] [Algebra A B] [IsIntegralClosure A R B]
 variable (R B)
 
-protected theorem isIntegral [Algebra R A] [IsScalarTower R A B] (x : A) : IsIntegral R x :=
-  (isIntegral_algebraMap_iff (algebraMap_injective A R B)).mp <|
+protected theorem isIntegral [Algebra R A] [IsScalarTower R A B] (x : A) : IsIntegral R x := by
+  have := faithfulSMul R A B
+  exact (isIntegral_algebraMap_iff).mp <|
```
Comment (plp127) [inline Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean]:
```suggestion
protected theorem isIntegral [Algebra R A] [IsScalarTower R A B] (x : A) : IsIntegral R x :=
  have := faithfulSMul R A B
  (isIntegral_algebraMap_iff).mp <|
```

**Review by plp127 — APPROVED** [review]

**Comment by ocfnash** [comment]
Thanks!

In case this needs a merge of master:
bors d+

**Comment by ocfnash** [comment]
Optimistically:

bors merge
